US07834039B2
A solution of sodium hydroxide (1.754 g, 43.9 mmol) in water (25 ml) was added to crude ethyl 2-methylimidazo[1,2-a]pyrazine-3-carboxylate (4.5 g, 21.93 mmol). The reaction is exothermic and goes to completion in minutes without additional heating. The mixture was acidified with concentrated HCl to pH 5. The solution was injected onto a preparative C18 column and washed with water and then eluted with 20% CH3CN/water. The product fractions were combined and concentrate to yield 2-Methyl-imidazo[1,2-a]pyrazine-3-carboxylic acid (250 mg, 6%) as a tan solid. LCMS (Table 1, Method a) Rt=0.84 min, m/z 176.18 (M−H)−; 1H NMR (400 MHz, DMSO-d6) δ 9.12 (m, 2H), 8.12 (m, 1H), 2.66 (s, 3H).

reactant | sodium hydroxide | 43.9 mmol, 1.754 g | [OH-].[Na+]
reactant | ethyl 2-methylimidazo[1,2-a]pyrazine-3-carboxylate | 21.93 mmol, 4.5 g | CC=1N=C2N(C=CN=C2)C1C(=O)OCC | C10H11N3O2
reactant | HCl | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 2-Methyl-imidazo[1,2-a]pyrazine-3-carboxylic acid | 250 mg, 6% | CC=1N=C2N(C=CN=C2)C1C(=O)O | C8H7N3O2
